US06420393B1
12.29 ml of 1M diisobutylaluminum hydride solution in THF diluted with 20 ml of THF are introduced under argon and a solution of 1.00 g (4.095 mmol) of ethyl E-3-trifluoromethylcinnamate in 20 ml of THF is added dropwise. The mixture is subsequently stirred for 30 min. hydrolyzed with water, then extracted with dichloromethane, and the combined extracts are dried and concentrated. Column chromatography on silica gel (mobile phase: cyclohexane:ethylacetate:=7:3) yields in the first fraction 420 mg (50.7% of theory) of E-3-trifluoromethylcinnamyl alcohol which is employed further for the oxidation.

reactant | diisobutylaluminum hydride | 1M, 12.29 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl E-3-trifluoromethylcinnamate | 4.095 mmol, 1.00 g | FC(C=1C=C(/C=C/C(=O)OCC)C=CC1)(F)F | C12H11F3O2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | E-3-trifluoromethylcinnamyl alcohol | 420 mg, 50.7% | FC(C=1C=C(/C=C/CO)C=CC1)(F)F | C10H9F3O
